US06878714B2
To a suspension of 4-chloro-1H-pyrrolo[2,3-b]pyridine (3.80 g) and NaI (19.15 g) in CH3CN (40 mL) was added acetyl chloride (5.0 mL) slowly. The mixture was heated to reflux for overnight. After cooled to RT, 40 mL of 10% Na2CO3 and 40 mL of 10% NaHSO3 were added. After stirring for 15 min, the mixture was extracted with EtOAc 4 times. The combined organic phases were washed with brine, dried over MgSO4 and concentrated to give a brown residue as the crude compound, which was purified by chromatography through silica gel (220 g, 5 to 15% EtOAc/hexanes to afford 1-(4-iodo-pyrrolo[2,3-b]pyridin-1-yl)-ethanone as white solid.

reactant | 4-chloro-1H-pyrrolo[2,3-b]pyridine | 3.80 g | ClC1=C2C(=NC=C1)NC=C2 | C7H5ClN2
reactant | NaI | 19.15 g | [Na+].[I-]
reactant | acetyl chloride | 5.0 mL | C(C)(=O)Cl | C2H3ClO
reactant | Na2CO3 | 40 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | NaHSO3 | 40 mL | OS(=O)[O-].[Na+]
solvent | CH3CN | 40 mL | CC#N | C2H3N
product | 1-(4-iodo-pyrrolo[2,3-b]pyridin-1-yl)-ethanone | IC1=C2C(=NC=C1)N(C=C2)C(C)=O | C9H7IN2O
